US08431695B2
Preparation of 4-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-N,N-dimethylpiperidine-1-sulfonamide
To a suspension of 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (80 mg, 0.17 mmol) in toluene (1 mL) was added N,N-dimethylsulfamoyl chloride (27 mg, 0.19 mmol) and triethylamine (73 μL, 0.52 mmol). The reaction was stirred at rt for 17 h. Additional N,N-dimethylsulfamoyl chloride (27 mg, 0.19 mmol) and triethylamine (73 μL, 0.52 mmol) were added and the reaction continued to stir at rt for 6 h. The mixture was partitioned between EtOAc (20 mL) and H2O (20 mL). The layers were separated and the organic phase was washed with saturated, aqueous NaHCO3 (20 mL), brine, dried (Na2SO4) and concentrated. The resulting solid was triturated with Et2O and was collected by vacuum filtration to afford 92 mg (99%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.55 (s, 1 H), 7.90 (s, 1 H), 7.80 (d, 1 H), 7.59 (s, 1 H), 7.28-7.37 (m, 5 H), 7.14 (d, 1 H), 6.63 (s, 1 H), 5.65 (s, 2 H), 3.67 (d, 2 H), 3.22-3.33 (m, 1 H), 3.01 (t, 2 H), 2.77 (s, 6 H), 2.07 (d, 2 H), 1.62-1.77 (m, 2 H); ES-MS m/z 531.26 [M+H]+, HPLC RT (min) 2.75.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.17 mmol, 80 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C25H25N7
reactant | N,N-dimethylsulfamoyl chloride | 0.19 mmol, 27 mg | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | triethylamine | 0.52 mmol, 73 μL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylsulfamoyl chloride | 0.19 mmol, 27 mg | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | triethylamine | 0.52 mmol, 73 μL | C(C)N(CC)CC | C6H15N
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-N,N-dimethylpiperidine-1-sulfonamide | 92 mg, 99% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)S(=O)(=O)N(C)C)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H30N8O2S
